US07399867B2
Combine 4-bromo-2-fluorothioanisole (U.S. Pat. No. 6,307,047, 2.7 g, 12 mmol), oxone (38 g, 62 mmol) and methanol (200 mL) and stir for 12 hours. Filter through a pad of silica gel and elute with ethyl acetate (500 mL). Evaporate solvent and partition between dichloromethane (200 mL) and water (100 mL). Separate the layers, wash the organic layer with saturated aqueous NaHCO3 (10 mL), brine (10 mL), dry with MgSO4, filter, and concentrate in vacuo. Wash the crude solid with hexane (20 mL), ether (10 mL) and dry in vacuo to obtain 2.4 g of 4-bromo-2-fluoro-1-methanesulfonyl-benzene (78%).

reactant | 4-bromo-2-fluorothioanisole | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
reactant | oxone | 62 mmol, 38 g | OOS(=O)[O-].[K+]
reactant | methanol | 200 mL | CO | CH4O
product | 4-bromo-2-fluoro-1-methanesulfonyl-benzene | 2.4 g, 78% | BrC1=CC(=C(C=C1)S(=O)(=O)C)F | C7H6BrFO2S
